US08242133B2
To a mixture of 0.28 g of 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole, 0.50 g of potassium carbonate and 2 ml of DMF, 0.15 g of 2,2,2-trifluoroethanethiol was added. The reaction mixture was stirred at room temperature for 1.2 hours. Water was added to reaction mixture, which followed by extraction with ethyl acetate twice. The combined organic layers were washed with saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.32 g of 2-[3-(2,2,2-trifluoroethylthio)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 46”).

reactant | 2-(3-fluoropyridin-4-yl)-5-(trifluoromethyl)benzoxazole | 0.28 g | FC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F | C13H6F4N2O
reactant | potassium carbonate | 0.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 2 ml | CN(C)C=O | C3H7NO
reactant | 2,2,2-trifluoroethanethiol | 0.15 g | FC(CS)(F)F | C2H3F3S
solvent | Water | O | H2O
product | 2-[3-(2,2,2-trifluoroethylthio)pyridin-4-yl]-5-(trifluoromethyl)benzoxazole | 0.32 g | FC(CSC=1C=NC=CC1C=1OC2=C(N1)C=C(C=C2)C(F)(F)F)(F)F | C15H8F6N2OS
